US07901791B2
A flask was charged with 3.2 g (10 mmol) of 4-bromotriphenylamine, 1.4 g (10 mmol) of 1-aminonaphthalene, 58 mg (0.1mmol) of dibenzylideneacetonepalladium(0), and 3.0 g (30 mmol) of sodium tert-butoxide and the atmosphere in the flask was replaced by nitrogen. 40 ml of dehydrated xylene was added thereto. Degassing was carried out for approximately 3 minutes until no more air bubbles were generated. 540 mg (1.0 mmol) of 1,1-bis(diphenylphosphino)ferrocene was added thereto and the solution was stirred for 6.5 hours at 90° C. in an atmosphere of nitrogen. After approximately 300 ml of toluene was added thereto, the solution was filtered through florisil, alumina, and celite. The obtained filtrate was washed with water and a saturated aqueous solution of sodium chloride. The organic layer was dried by magnesium sulfate. The obtained material was filtered, then, condensed, and then, purified by silica gel column chromatography (toluene and hexane in a ratio of 3:7). The obtained solution was condensed, then, hexane was added thereto and the object was precipitated by using an ultra sonic washing machine. The obtained solid was filtered to obtain 1.8 g of N-(4-diphenylaminophenyl)-N-(1-naphthyl)amine as white powder in a yield of 46%. The NMR data of the object are indicated below. 1H NMR (300 MHz, DMSO-d); δ=6.93-7.00 (m, 8H), 7.09 (d, j=8.7, 2H), 7.23-7.32 (m, 5H), 7.39 (t, j=7.8, 1H), 7.48-7.52 (m, 3H), 7.86-7.90 (m, 1H), 8.20-8.23 (m, 2H). 13C NMR (60 MHz, DMSO-d); δ=113.2, 118.6, 120.9, 121.7, 122.2, 122.6, 125.0, 126.0, 126.2, 126.6, 127.0, 128.1, 129.3, 134.4, 139.1, 139.6, 141.4, 147.6. FIG. 21 shows a chart of 1H NMR and FIG. 22 shows an enlarged view of the portion from 6.5 to 8.5 ppm in FIG. 21. FIG. 23 shows a chart of 13C NMR.

reactant | 4-bromotriphenylamine | 10 mmol, 3.2 g | C1=CC=C(C=C1)N(C2=CC=CC=C2)C3=CC=C(C=C3)Br | C18H14BrN
reactant | 1-aminonaphthalene | 10 mmol, 1.4 g | NC1=CC=CC2=CC=CC=C12 | C10H9N
reactant | sodium tert-butoxide | 30 mmol, 3.0 g | CC(C)([O-])C.[Na+]
reactant | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 1.0 mmol, 540 mg | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | hexane | CCCCCC | C6H14
solvent | toluene | approximately 300 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-diphenylaminophenyl)-N-(1-naphthyl)amine | 1.8 g, yield of 46% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)NC1=CC=CC2=CC=CC=C12)C1=CC=CC=C1 | C28H22N2
